US06218431B1
2,6-Diisopropyl-3hydroxymethyl-4-(4-fluorophenyl)-5-[2(E)-phenyl-ethenyl]pyridine
The title compound was prepared from ethyl isobutyrylacetate, 4-fluorobenzaldehyde and benzyl triphenylphosphonium bromide/sodium amide according to the procedures described in Example 1, Steps A-G. 1H NMR (300 MHz, CDCl3): δ7.21 (m, 9 H), 6.70 (d, J=16.5 Hz, 1 H), 6.26 (d, J=16.5 Hz, 1 H), 4.45 (d, J=5.5 Hz, 2 H), 3.48 (sept, J=6.6 Hz, 2 H), 1.37 (d, J=6.6 Hz, 6 H), 1.31 (d, J =6.6 Hz, 6 H), 1.29 (m, 1 H). FAB-MS: calculated for (C26H28FNO) 389, found 390 (M+H). Anal. Calcd for C26H28FNO: C, 80.17; H, 7.25; N, 3.60. Found: C, 79.89; H, 7.28; N, 3.49. mp 107-110° C. Rf=0.3 (20% ethyl acetate/hexane).

reactant | ethyl isobutyrylacetate | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | benzyl triphenylphosphonium bromide sodium amide | [Br-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH2-].[Na+]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2,6-Diisopropyl-3hydroxymethyl-4-(4-fluorophenyl)-5-[2(E)-phenyl-ethenyl]pyridine | C(C)(C)C1=NC(=C(C(=C1CO)C1=CC=C(C=C1)F)\C=C\C1=CC=CC=C1)C(C)C | C26H28FNO
